US07153855B2
In a similar manner as described in Example 1, from ethyl 4-bromobenzoate (12.8 mL, 78.3 mmol) and 6-chloro-2-picoline (4.3 mL, 39.2 mmol), 1-(4-bromophenyl)-2-(6-chloro-2-pyridinyl)ethanone (9.6 g, 82%) was obtained as a crystalline solid existing as a keto-enol tautomeric mixture. 1H NMR (CDCl3): for the keto tautomer δ 7.95 (d, 2H), 7.74–7.56 (m, 3H), 7.27 (m, 2H), 4.47 (s, 2H); MS m/z 310 (M+1).

reactant | ethyl 4-bromobenzoate | 78.3 mmol, 12.8 mL | BrC1=CC=C(C(=O)OCC)C=C1 | C9H9BrO2
reactant | 6-chloro-2-picoline | 39.2 mmol, 4.3 mL | ClC1=CC=CC(=N1)C | C6H6ClN
product | 1-(4-bromophenyl)-2-(6-chloro-2-pyridinyl)ethanone | 9.6 g, 82% | BrC1=CC=C(C=C1)C(CC1=NC(=CC=C1)Cl)=O | C13H9BrClNO
